US06548493B1
To a solution of tert-butyl (±)-cis-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (0.576 g, 1.92 mmol) in DMF (4 mL) at 0° C., freshly recrystalized NBS (0.375 g, 2.1 mmol) was added as a solution in DMF (4 mL). The reaction was stirred at 0° C. for 20 min, after which it was warmed to RT. The reaction was stirred at RT for 0.5 h. Water (10 mL) and EtOAc (10 mL) were added. The layers were separated, and the aqueous phase was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine (2×20 mL) and dried. Concentration afforded a crude brown oil. The crude product was purified by column chromatography (MeOH/CH2Cl2). Tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (550 mg, 75%) was isolated as a brown amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.06 (s, 1H), 7.02 (s, 1H), 3.70-3.90 (m, 1H), 3.50-3.70 (m, 1H), 3.00-3.45 (m, 6H), 2.70-2.90 (m, 2H), 1.70-1.90 (m, 2H), 1.48 (s, 9H) ppm.

reactant | tert-butyl (±)-cis-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 1.92 mmol, 0.576 g | C1=C2[C@@H]3[C@H](N4C2=C(C=C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H24N2O2
reactant | NBS | 2.1 mmol, 0.375 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | 10 mL | O | H2O
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 550 mg, 75% | BrC=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
